US04988723
A mixture of trans-4-(2-cyanoiminothiazolidin-3-yl)-2,2-diethyl-3,4-dihydro-3-hydroxy-2H-1-benzopyran-6carbonitrile -(0.28 g) and acetic anhydride (0.15 ml) in pyridine (1.4 ml) was stirred overnight at ambient temperature. The reaction mixture was diluted with ethyl acetate, and then washed with 5% aqueous hydrochloric acid, saturated sodium bicarbonate solution and brine successively. The extract was dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue of trans-3-acetoxy-4-(2-cyanoiminothiazolidin-3-yl)-2,2-diethyl-3,4-dihydro-2H-1-benzopyran-6-carbonitrile, which was dissolved in toluene (12.5 ml) and thereto was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.35 ml). The reaction mixture was heated at 100° C. with stirring for an hour and 40 minutes. The solvent was evaporated in vacuo. The residue was triturated with ethyl acetate and recrystallized from 85% aqueous acetonitrile to give 4-(2-cyanoiminothiazolidin-3-yl)-2,2-diethyl-2H-1-benzopyran-6-carbonitrile (0.18 g).

reactant | trans-4-(2-cyanoiminothiazolidin-3-yl)-2,2-diethyl-3,4-dihydro-3-hydroxy-2H-1-benzopyran-6carbonitrile | 0.28 g | C(#N)N=C1SCCN1[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(CC)CC)O | C18H20N4O2S
reactant | acetic anhydride | 0.15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-3-acetoxy-4-(2-cyanoiminothiazolidin-3-yl)-2,2-diethyl-3,4-dihydro-2H-1-benzopyran-6-carbonitrile | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(SCC1)=NC#N)C=C(C=C2)C#N)(CC)CC | C20H22N4O3S
